US07153872B2
2M solution of dimethylamine in tetrahydrofuran (189 μl, 0.378 mmol) was dissolved in 2 ml anhydrous methanol. Glacial acetic acid was added until approximately pH 4. 4-(2-methyl-2H-benzotriazol-5-yl)-5-(6-methyl-pyridin-2-yl)-1H-imidazole-2-carbaldehyde (20 mg, 0.063 mmol) was added and the reaction stirred at room temperature for 3 hours. Sodium cyanoborohydride (6 mg, 0.095 mmol) was added and the reaction stirred at room temperature overnight. 1M solution of sodium hydroxide in water was added until the reaction pH was 8 and the organic solvent was then removed by rotary evaporation. The residue was dissolved in water and extracted three times with chloroform. The combined organic extracts were dried over sodium sulfate, filtered, and concentrated to dryness. The residue was purified on Biotage Flash 12S silica gel column using chloroform/methanol gradient system (95:5 to 80:20, respectively) as eluent to afford dimethyl-[4-(2-methyl-2H-benzotriazol-5-yl)-5-(6-methyl-pyridin-2-yl)-1H-imidazol-2-ylmethyl]-amine (6 mg, 28% yield). HPLC tR=3.29 min, LC-MS=348 (M+1).

reactant | dimethylamine | CNC | C2H7N
reactant | tetrahydrofuran | 0.378 mmol, 189 μl | O1CCCC1 | C4H8O
reactant | 4-(2-methyl-2H-benzotriazol-5-yl)-5-(6-methyl-pyridin-2-yl)-1H-imidazole-2-carbaldehyde | 0.063 mmol, 20 mg | CN1N=C2C(=N1)C=CC(=C2)C=2N=C(NC2C2=NC(=CC=C2)C)C=O | C17H14N6O
reactant | Sodium cyanoborohydride | 0.095 mmol, 6 mg | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 2 ml | CO | CH4O
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | dimethyl-[4-(2-methyl-2H-benzotriazol-5-yl)-5-(6-methyl-pyridin-2-yl)-1H-imidazol-2-ylmethyl]-amine | 6 mg, 28% yield | CN(CC=1NC(=C(N1)C1=CC=2C(=NN(N2)C)C=C1)C1=NC(=CC=C1)C)C | C19H21N7
